### ISSUE TITLE
RFC: 

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#3011]
### Proposal

Right now, we have `IO : Type → Type`. This RFC suggests we change to `IO : Type u → Type u`.

This RFC does *not* suggest:
* Making *all monads* polymorphic *within a chain of binds*. This requires a massive redesign, and the tradeoffs are unclear.
* Changing any of the "real" IO api to operate in these univeres

  - **User Experience**: How does this feature improve the user experience?
    * Users of `IO.ofExcept` will not get weird universe errors if they pass in an `Except` from a higher universe
    * Users of types in higher universes will not have to jump between the real io monad and a hand-rolled `IOButHigherUniverse`

  - **Beneficiaries**: Which Lean users and projects benefit most from this feature/change?
    * This would help with `slim_check`, which currently, in order to sample from types in higher universes, needs the monad itself to produce values in those universes
    * Mathlib's existing `ULiftable` infrastructure would be usable with `IO`; currently it cannot be because `IO` doesn't form a family of types over universes.
    * Users ask about 

  - **Maintainability**: Will this change streamline code maintenance or simplify its structure?
   * The change will replace a few `(a b : Type u)`s with `(a : Type u) (b : Type v)`; the consequences are negligeable.

### Community Feedback

Some initial discussion, which suggests some benefit would arise even from just changing `IO` to allow higher universes: https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/universe.20polymorphic.20IO/near/282494539

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by semorrison** [comment]
e.g.
```
import Std

example : ∃ (α : Type _) (l : List α), l ≠ l ++ l := by
  refine ⟨Int, ?_⟩
  refine ⟨[37], ?_⟩
  simp
```

**Comment by eric-wieser** [comment]
That example is a bit misleading, because Lean unifies the `_` to `0`. It fails if you use `Type u`.

**Comment by eric-wieser** [comment]
Making [`EStateM.bind`](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#EStateM.bind) universe-polymorphic, as I do in https://github.com/leanprover/lean4/pull/3010, is sufficient I think. You wouldn't be able to use do notation to jump between universes, but you could call `EStateM.bind` directly, or an `IO.bind` wrapper for it.

**Comment by eric-wieser** [comment]
Here's how to make the above work:
<details>

```lean
import Lake.Util.EStateT
import Lean
import Mathlib

set_option pp.universes true
namespace Lake.EStateT

def ofEStateM (f : EStateM ε σ α) : Lake.EStateT ε σ Id α :=
  fun x => do
    match f x with
    | .ok y x' => return .ok y x'
    | .error e x' => return .error e x'

def toEStateM (f : Lake.EStateT ε σ Id α) : EStateM ε σ α :=
  fun x =>
    match (f x).run with
    | .ok y x' => .ok y x'
    | .error e x' => .error e x'

instance : MonadLift (Lake.EStateT ε σ Id) (EStateM ε σ) where monadLift := Lake.EStateT.toEStateM
instance : MonadLift (EStateM ε σ) (Lake.EStateT ε σ Id) where monadLift := .ofEStateM

def map' {α β : Type*} (f : α → β) (x : EStateT ε σ Id α) : EStateT ε σ Id β :=
  fun s => do
    match x s with
    | .ok y s' => return .ok (f y) s'
    | .error e s' => return .error e s'

instance : ULiftable (EStateT.{_,_,u} ε σ Id) (EStateT.{_,_,v} ε σ Id) where
  congr {α β} e :=
    { toFun f := f.map' e
      invFun f := f.map' e.symm
      left_inv f := sorry
      right_inv f := sorry}

instance : ULiftable (EStateM ε σ) (EStateT.{_,_,v} ε σ Id) where
  congr {α β} e :=
    { toFun f := (ofEStateM f).map' e
      invFun f := (f.map' e.symm).toEStateM
      left_inv := sorry
      right_inv := sorry}

end Lake.EStateT

abbrev EIO' (ε : Type u) (α : Type v) : Type _ := Lake.EStateT ε IO.RealWorld Id α
abbrev IO' : Type u → Type u := EIO' IO.Error
abbrev BaseIO' := EIO' Empty

instance : MonadLift IO' IO := by unfold IO EIO; infer_instance
instance : MonadLift IO IO':= by unfold IO EIO; infer_instance
instance : MonadLift BaseIO BaseIO':= by unfold BaseIO EIO; infer_instance

structure Foo where
  {α : Type}
  x : α

instance : ULiftable BaseIO BaseIO' := inferInstance

def ULiftable.up'.{u,v} {m m'} [Functor m] [Functor m'] [ULiftable m m'] (f : m PUnit.{u + 1}) : m' PUnit.{max u v + 1} :=
  discard <| ULiftable.up f

def ULiftable.down'.{u,v} {m m'} [Functor m] [Functor m'] [ULiftable m m'] (f : m' PUnit.{max u v + 1}) : m PUnit.{u + 1} :=
  ULiftable.down <| (fun _ => ⟨⟨⟩⟩) <$> f

def shuffleIt (xs : Array Foo) : IO' PUnit := do
  let mut xs := xs
  for i in [0:xs.size - 1] do
    let j ← ULiftable.up <| (IO.rand i (xs.size - 1) : IO Nat)
    xs := xs.swapIfInBounds i j.down
  discard <| ULiftable.up <| IO.println xs.size
  pure ⟨⟩

#eval! show IO _ from ULiftable.down' (shuffleIt #[⟨1⟩, ⟨-2⟩])
```

</detalis>

**Comment by hargoniX** [comment]
There's no need to write that scary code to get this to work:
```lean
private def shuffleIt {α : Type u} (xs : Array α) (gen : StdGen) : Array α := Id.run do
  go xs gen 0
where
  go (xs : Array α) (gen : StdGen) (i : Nat) : Array α :=
    if _ : i < xs.size - 2 then
      let (j, gen) := randNat gen i (xs.size - 1)
      let xs := xs.swapIfInBounds i j
      go xs gen (i + 1)
    else
      xs

def foo :=
  let seed := UInt64.toNat (ByteArray.toUInt64LE! (← IO.getRandomBytes 8))
  let gen := mkStdGen seed
  let selectables := shuffleIt selectables gen
```
works as well.
